US04048314
A mixture comprising 3.7 g. of 1-methyl-4-phenyl-3,4-epoxypiperidine, 2.5 g. of benzylamine and 10 ml. of ethylene glycol was heated at 150° C. on an oil bath overnight. After work-up by the method described in Example 1, 5.45 g. of residue were obtained from which 4.11 g. of the desired free base 1-methyl-4-phenyl-4-(N-benzylamino)-3-hydroxy piperidine were isolated, this compound having a melting point of 162°-4° C.

reactant | 1-methyl-4-phenyl-3,4-epoxypiperidine | CN1CC2C(CC1)(O2)C2=CC=CC=C2 | C12H15NO
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1-methyl-4-phenyl-4-(N-benzylamino)-3-hydroxy piperidine | CN1CC(C(CC1)(NCC1=CC=CC=C1)C1=CC=CC=C1)O | C19H24N2O
